US07968570B2
J3: 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-morpholine
2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (200 mg, 0.673 mmol) was dissolved in THF (5 mL) and morpholine (0.088 mL, 1.01 mmol) was added. The mixture stirred overnight at room temperature and was then filtered and concentrated to afford the title compound (223 mg, 100%). 1H NMR (300 MHz, CDCl3): δ 7.79 (d, 2H), 7.36 (d, 2H), 3.73 (t, 4H), 3.55 (s, 2H), 2.47 (t, 4H).

reactant | 2-(4-Bromomethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.673 mmol, 200 mg | BrCC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H18BBrO2
reactant | morpholine | 1.01 mmol, 0.088 mL | N1CCOCC1 | C4H9NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyl]-morpholine | 223 mg, 100% | CC1(OB(OC1(C)C)C1=CC=C(CN2CCOCC2)C=C1)C | C17H26BNO3
